US05134148
Using the procedure described in Example 1, 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one was reacted with (3RS,4SR)-3-hydroxy-4-(3-hydroxyphenyl)-4-methoxytetrahydropyran to give (3RS,4SR)-4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-3-hydroxy-4-methoxytetrahydropyran in 84% yield, m.p. 62°-66° C.

reactant | 6-bromomethyl-1,2-dihydro-1-methylquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | (3RS,4SR)-3-hydroxy-4-(3-hydroxyphenyl)-4-methoxytetrahydropyran | OC1COCCC1(OC)C1=CC(=CC=C1)O | C12H16O4
product | (3RS,4SR)-4-[3-(1,2-dihydro-1-methyl-2-oxoquinolin-6-ylmethoxy)phenyl]-3-hydroxy-4-methoxytetrahydropyran | 84% yield | CN1C(C=CC2=CC(=CC=C12)COC=1C=C(C=CC1)C1(C(COCC1)O)OC)=O | C23H25NO5
